US04005217
Petroleum spirit (b.p. 60°-80° C; 50 ml) was added to a solution of N-(2-amino-4-n-butylphenyl)-2-dimethylaminoacetamide (4.98 g) in benzene (50 ml) and the solution stirred vigorously while ethoxycarbonyl isothiocyanate (2.65 g) was added dropwise, with external cooling, to maintain the temperature between 15° C. and 20° C. After ten minutes, the precipitated solid was filtered off and recrystallised from benzene to give crude 1-ethoxycarbonyl-3-(5-n-butyl-2-dimethylaminoacetamidophenyl)thiourea, m.p.152°-155° C. (with decomposition), which was then dissolved in the minimum of ethanol. Diethyl ether (200 ml) was added, followed by an excess of a saturated solution of hydrogen chloride in diethyl ether. The precipitated solid was filtered off and recrystallised from ethanol/ethyl acetate to give 1-ethoxycarbonyl-3-(5-n-butyl-2-dimethylaminoacetamidophenyl)thiourea hydrochloride (1.9 g), m.p. 174°-176° C. (with decomposition).

reactant | N-(2-amino-4-n-butylphenyl)-2-dimethylaminoacetamide | 4.98 g | NC1=C(C=CC(=C1)CCCC)NC(CN(C)C)=O | C14H23N3O
reactant | ethoxycarbonyl isothiocyanate | 2.65 g | C(C)OC(=O)N=C=S | C4H5NO2S
reactant | hydrogen chloride | Cl | ClH
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | ethanol | C(C)O | C2H6O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | Diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 1-ethoxycarbonyl-3-(5-n-butyl-2-dimethylaminoacetamidophenyl)thiourea hydrochloride | 1.9 g | Cl.C(C)OC(=O)NC(=S)NC1=C(C=CC(=C1)CCCC)NC(CN(C)C)=O | InChI=1S/C18H28N4O3S.ClH/c1-5-7-8-13-9-10-14(19-16(23)12-22(3)4)15(11-13)20-17(26)21-18(24)25-6-2;/h9-11H,5-8,12H2,1-4H3,(H,19,23)(H2,20,21,24,26);1H
